US07795282B2
Step D: Preparation of tert-butyl 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-6,7-dihydrothiazolo[5,4-c]pyridine-5(4H)-carboxylate:
To a solution of 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide (0.500 g, 0.809 mmol) in 20 mL of ethanol was added tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate (0.338 g, 1.21 mmol) followed by DIEA (0.423 mL, 2.43 mmol). The mixture was allowed to stir overnight at reflux then treated with tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate (200 mg) and stirred at reflux for a further 3 hours. The cooled mixture was partitioned between saturated NaHCO3 solution (50 mL) and EtOAc (50 mL) and the aqueous layer was extracted with EtOAc (2×50 mL). The combined organic phases were washed with brine (50 mL) dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (5-10% ethyl acetate/hexanes) to afford the desired product as a viscous yellow oil, 0.412 g, 64%.

reactant | 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothioamide | 0.809 mmol, 0.500 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(SC(=NN1C(N)=S)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C33H33F2N3OS2Si
reactant | tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate | 1.21 mmol, 0.338 g | BrC1CN(CCC1=O)C(=O)OC(C)(C)C | C10H16BrNO3
reactant | DIEA | 2.43 mmol, 0.423 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate | 200 mg | BrC1CN(CCC1=O)C(=O)OC(C)(C)C | C10H16BrNO3
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | tert-butyl 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-6,7-dihydrothiazolo[5,4-c]pyridine-5(4H)-carboxylate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(SC(=NN1C=1SC=2CN(CCC2N1)C(=O)OC(C)(C)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C43H46F2N4O3S2Si
